US06495564B1
3-{6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-2-oxo-1,2-dihydro-quinolin-4-yl}-benzaldehyde O-benzyl-oxime
3-{6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-2-oxo-1,2-dihydro-quinolin-4-yl}-benzaldehyde (202 mg, 0.418 mMol) was dissolved in a solution of DCM (2.0 mL) and MeOH (2.0 mL) under an atmosphere of dry N2. To this solution was added O-benzylhydroxylamine hydrochloride (66.8 mg, 418 mMol) and the mixture was stirred for 24 hours at ambient temperature. The reaction mixture was concentrated under vacuum and was purified by radial chromatography eluting with MeOH/EtOAc/NH4OH (5:95:0.1) to give the titled compound as an oil.

reactant | 3-{6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-2-oxo-1,2-dihydro-quinolin-4-yl}-benzaldehyde | 0.418 mMol, 202 mg | ClC1=CC=C(C=C1)C(C=1C=C2C(=CC(N(C2=CC1)C)=O)C=1C=C(C=O)C=CC1)(C=1N(C=NC1)C)O | C28H22ClN3O3
reactant | O-benzylhydroxylamine hydrochloride | 418 mMol, 66.8 mg | Cl.C(C1=CC=CC=C1)ON
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2.0 mL | CO | CH4O
product | 3-{6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-2-oxo-1,2-dihydro-quinolin-4-yl}-benzaldehyde O-benzyl-oxime | C(C1=CC=CC=C1)ON=CC1=CC(=CC=C1)C1=CC(N(C2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C1=CC=C(C=C1)Cl)C)=O | C35H29ClN4O3
